US06376491B1
4-(2-Methanesulfonyloxy-ethoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (20 mg) and tert-butylamine (0.3 ml) were dissolved in THF (2 ml) and stirred overnight at 60° C. The reaction mixture was dissolved in ethyl acetate and washed with saturated ammonium chloride solution and water. The organic solvent was dried over anhydrous sodium sulfate and evaporated to dryness. The residue was purified by preparative thin layer chromatography (using dichloromethane:MeOH=10:1 as a developing solvent) to afford 4-(2-tert-butylamino-ethoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (11 mg) as a colorless oil. FAB-MS: m/z 320 (MH+); 1H-NMR (CDCl3): δ 1.20 (9H, s), 1.44 (3H, t, J=7 Hz), 2.75 (3H, s), 3.08 (2H, t, J=5 Hz), 4.23 (2H, t, J=5 Hz), 4.44 (2H, q, J=7 Hz), 6.62 (1H, d, J=8 Hz), 7.11 (1H, d, J=8 Hz), 7.29 (1H, t, J=8 Hz).

reactant | 4-(2-Methanesulfonyloxy-ethoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 20 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCOS(=O)(=O)C | C15H18O7S
reactant | tert-butylamine | 0.3 ml | C(C)(C)(C)N | C4H11N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-tert-butylamino-ethoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 11 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCNC(C)(C)C | C18H25NO4
